US07173031B2
C) N1-(3-Fluoro-4-(thieno[3,2-d]pyrimidin-4-yloxy)phenyl)-N3-(4-fluorophenyl)malonamide
N1-(3-Fluoro-4-hydroxyphenyl)-N3-(4-fluorophenyl)malonamide (46 mg, 0.15 mmol), 4-chlorothieno[3,2-d]pyrimidine (17 mg, 0.10 mmol), cesium carbonate (49 mg, 0.15 mmol), and copper(I) chloride (10 mg, 0.10 mmol) were placed in a test tube. The tube was sealed, flushed with nitrogen, charged with 1-methyl-2-pyrrolidinone (0.3 mL) followed by 2,2,6,6-tetramethyl-3,5-heptanedione (4.0 μL, 0.02 mmol). The reaction was stirred at 120° C. for 2 h. The reaction mixture was purified by preparative HPLC. The appropriate fraction was concentrated to remove methanol and the resulting aqueous solution was made basic with saturated NaHCO3 solution (5 mL). The aqueous solution was extracted with EtOAc (3×10 mL) and the combined organic extracts were dried over anhydrous Na2SO4 and concentrated in vacuo to give the desired product as a colorless oil. Lyophilization with methanol/water gave the title compound (23 mg, 52%) as a white solid. 1H NMR (CD3OD) δ 8.54 (s, 1H), 8.21 (d, 1H, J=5.5 Hz), 7.69 (dd, 1H, J=12.4, 2.0 Hz), 7.49 (m, 3H), 7.27 (m, 2H), 6.96 (t, 2H, J=8.9 Hz), 3.47 (s, 2H); MS(ESI+) m/z 441.1 (M+H)+.

reactant | N1-(3-Fluoro-4-hydroxyphenyl)-N3-(4-fluorophenyl)malonamide | 0.15 mmol, 46 mg | FC=1C=C(C=CC1O)NC(CC(=O)NC1=CC=C(C=C1)F)=O | C15H12F2N2O3
reactant | 4-chlorothieno[3,2-d]pyrimidine | 0.10 mmol, 17 mg | ClC=1C2=C(N=CN1)C=CS2 | C6H3ClN2S
reactant | cesium carbonate | 0.15 mmol, 49 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2,2,6,6-tetramethyl-3,5-heptanedione | 0.02 mmol, 4.0 μL | CC(C)(C(CC(C(C)(C)C)=O)=O)C | C11H20O2
catalyst | copper(I) chloride | 0.10 mmol, 10 mg | [Cu]Cl
product | N1-(3-Fluoro-4-(thieno[3,2-d]pyrimidin-4-yloxy)phenyl)-N3-(4-fluorophenyl)malonamide | FC=1C=C(C=CC1OC=1C2=C(N=CN1)C=CS2)NC(CC(=O)NC2=CC=C(C=C2)F)=O | C21H14F2N4O3S
